US05679661
Preparation of 1,4-Dimethoxy-2,3-dicyanobenzene
Dimethyl sulfate (15 mL, 0.16 mol) and anhydrous potassium carbonate (24 g, 0.17 mol) are added to a solution of 2,3-dicyanohydroquinone (3.0 g, 0.019 mol) in 100 mL 2-butanone. The reaction mixture is refluxed for 18 hr. under a stream of argon, cooled to room temperature and the resulting solid is collected by filtration. The residue is added to water (100 mL) to dissolve the potassium carbonate and the resulting insoluble material is collected by filtration and dried under vacuum to yield 3.10 g (88%), m.p. 276°-280° C., 1H NMR (DMSO-d6) in ppm, δ=7.63 (s, 2H), 3.93 (s, 6H).

reactant | Dimethyl sulfate | 0.16 mol, 15 mL | S(=O)(=O)(OC)OC | C2H6O4S
reactant | potassium carbonate | 0.17 mol, 24 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,3-dicyanohydroquinone | 0.019 mol, 3.0 g | C(#N)C1=C(O)C=CC(=C1C#N)O | C8H4N2O2
solvent | 2-butanone | 100 mL | CC(CC)=O | C4H8O
product | 1,4-Dimethoxy-2,3-dicyanobenzene | COC1=C(C(=C(C=C1)OC)C#N)C#N | C10H8N2O2
